US08685974B2
A mixture of N-benzyl-4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyrimidin-2-amine (1 eq, 3.1 mmol) in 11 mL sulfuric acid was stirred at room temperature overnight. Ice was added followed by water and a solution of NaOH 30% until pH=9. The aqueous layer was extracted with dichloromethane and the combined organic extracts were dried over MgSO4 filtered and concentrated to afford 0.55 g of 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyrimidin-2-amine (50% yield).

reactant | N-benzyl-4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyrimidin-2-amine | 3.1 mmol, 1 eq | C(C1=CC=CC=C1)NC1=NC=CC(=N1)C=1C(=NN(C1)C(C)C)C=1SC(=CC1)Cl | C21H20ClN5S
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 11 mL | S(O)(O)(=O)=O | H2O4S
product | 4-[3-(5-chloro-2-thienyl)-1-isopropyl-1H-pyrazol-4-yl]pyrimidin-2-amine | 0.55 g, 50% yield | ClC1=CC=C(S1)C1=NN(C=C1C1=NC(=NC=C1)N)C(C)C | C14H14ClN5S
